US06653330B2
In the same manner as that described in Example 2(1), a reaction was carried out using commercially available 2-aminothiazole (333 mg, 3.3 mmol), N,N-diisopropylethylamine (1.21 ml, 7.0 mmol), 4-formylbenzoyl chloride (468 mg, 2.8 mmol) and 4-(dimethylamino)pyridine (a catalytic amount) and the reaction mixture was treated according to a similar procedure to that described in Example 2(1) to afford 4-formyl-N-(2-thiazolyl)benzamide (355 mg, yield 55%) as a pale yellow solid which was recrystallized from ethyl acetate-hexane to give pale yellow powdery crystals.

reactant | 2-aminothiazole | 3.3 mmol, 333 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 7.0 mmol, 1.21 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-formylbenzoyl chloride | 2.8 mmol, 468 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-formyl-N-(2-thiazolyl)benzamide | 355 mg, yield 55% | C(=O)C1=CC=C(C(=O)NC=2SC=CN2)C=C1 | C11H8N2O2S
